US08236826B2
Production of N-{6-[4-(4-chloroacetylpiperazino)phenoxy]-3-pyridyl}-4-(trifluoromethyl)benzamide
To a solution of N-[6-(4-piperazinophenoxy)-3-pyridyl]-4-(trifluoromethyl)benzamide (885 mg, 2.00 mmol) in DMF (20 mL) were added triethylamine (0.418 mL, 3.00 mmol) and chloroacetyl chloride (0.191 g, 2.40 mmol), and the resulting reaction solution was stirred for 10 minutes at room temperature. To this reaction solution was added ethyl acetate. The resulting solution was washed with water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to thereby yield 1.00 g of the title compound.

reactant | N-[6-(4-piperazinophenoxy)-3-pyridyl]-4-(trifluoromethyl)benzamide | 2.00 mmol, 885 mg | N1(CCNCC1)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C23H21F3N4O2
reactant | triethylamine | 3.00 mmol, 0.418 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 2.40 mmol, 0.191 g | ClCC(=O)Cl | C2H2Cl2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-{6-[4-(4-chloroacetylpiperazino)phenoxy]-3-pyridyl}-4-(trifluoromethyl)benzamide | ClCC(=O)N1CCN(CC1)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C25H22ClF3N4O3
